Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.59929940139
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],4.89018244165
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2],6.13020581526
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],5.125939643
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9],4.49784603248
[C:2](#[C:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-3.16772931885
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9],4.83270694809
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[H:7],2.7919097197900005
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[H:1][C:5]#[C:6][H:4],3.12804280454
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.52102616196
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.81634429331
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.14355236882
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],7.24495763
[H:1][C:2]([H:3])[O:4][C:5][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-4.27214873594
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-5.147776756630001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.5099879534800005
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],1.7334364694
[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.56654839991
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.52534464674
[C:3]=[O:4].[O:1]=[C:2]>>[O:1][C:2]#[C:3][O:4],3.2490498368000003
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[O:8].[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9],-2.15151346354
[C:1].[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9],-7.3366556762
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.18159944989
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.84479749491
[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[C:4][O:5][H:6].[O:1]=[C:2][H:3],2.67194771306
[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[H:9].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-1.6894246375600002
[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-7.37420444708
[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.38010001571
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.99496688189
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],4.408970078119999
